US07759397B2
a.1.2 ((S)-2-Fluoro-1-methyl-ethyl)-benzene
9.62 g of toluene-4-sulfonic acid (S)-2-phenyl-propyl ester (33.13 mmol) were dissolved in 80 ml of polyethylenglycol 400. 9.62 g of potassium fluoride (165.6 mmol) were added and the reaction mixture was stirred at 50° C. for 3 days and another 2 days at 55-70° C. The reaction was treated with 150 ml of saturated aqueous sodium chloride solution, extracted three times with diethyl ether, and the combined organic layers were dried over magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure. The crude product was purified via silica gel chromatography using cyclohexyane/ethyl acetate 15% as eluent. 2.85 g of the desired product were isolated, containing ˜25% of the elimination side product.

reactant | toluene-4-sulfonic acid (S)-2-phenyl-propyl ester | 33.13 mmol, 9.62 g | C1(=CC=CC=C1)[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)C | C16H18O3S
reactant | potassium fluoride | 165.6 mmol, 9.62 g | [F-].[K+]
solvent | sodium chloride | 150 ml | [Cl-].[Na+]
product | ((S)-2-Fluoro-1-methyl-ethyl)-benzene | 2.85 g | FC[C@@H](C)C1=CC=CC=C1 | C9H11F
